* Qucs 26.1.1  D:/Memristive-grid-video-processing/electrical simulation/simulation qucs/Grid3x3.sch
.INCLUDE "C:/Program Files/Qucs-S/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
.INCLUDE "D:/Memristive-grid-video-processing/electrical simulation/simulation qucs/Mn.lib"
.INCLUDE "D:/Memristive-grid-video-processing/electrical simulation/simulation qucs/Mp.lib"
R1 _net0 N11  50 tc1=0.0 tc2=0.0 
R2 _net1 N12  50 tc1=0.0 tc2=0.0 
R3 _net2 N13  50 tc1=0.0 tc2=0.0 
R4 _net3 N21  50 tc1=0.0 tc2=0.0 
R5 _net4 N22  50 tc1=0.0 tc2=0.0 
R6 _net5 N23  50 tc1=0.0 tc2=0.0 
R7 _net6 N31  50 tc1=0.0 tc2=0.0 
R8 _net7 N32  50 tc1=0.0 tc2=0.0 
R9 _net8 N33  50 tc1=0.0 tc2=0.0 
V1 _net4  0 PWL(0 0 1p 0)
V2 _net3  0 PWL(0 0 1p 0)
V3 _net6  0 PWL(0 0 1p 1)
V4 _net7  0 PWL(0 0 1p 1)
V5 _net8  0 PWL(0 0 1p 1)
V6 _net5  0 PWL(0 0 1p 0)
V7 _net0  0 PWL(0 0 1p 0)
V8 _net1  0 PWL(0 0 1p 0)
V9 _net2  0 PWL(0 0 1p 0)
XX13  N11 _net9 HPM_FLUX_INV 
XX1  _net9 N12 HPM_FLUX 
XX25  N12 _net10 HPM_FLUX_INV 
XX26  _net10 N13 HPM_FLUX 
XX27  N31 _net11 HPM_FLUX_INV 
XX28  _net11 N32 HPM_FLUX 
XX29  N32 _net12 HPM_FLUX_INV 
XX30  _net12 N33 HPM_FLUX 
XX31  N22 _net13 HPM_FLUX_INV 
XX32  _net13 N23 HPM_FLUX 
XX33  N21 Ne HPM_FLUX_INV 
XX34  Nf N22 HPM_FLUX 
XX35  N11 _net14 HPM_FLUX_INV 
XX36  _net14 N21 HPM_FLUX 
XX37  N21 _net15 HPM_FLUX_INV 
XX38  _net15 N31 HPM_FLUX 
XX39  N22 Nc HPM_FLUX_INV 
XX40  Nd N32 HPM_FLUX 
XX41  N23 _net16 HPM_FLUX_INV 
XX42  _net16 N33 HPM_FLUX 
XX43  N13 _net17 HPM_FLUX_INV 
XX44  _net17 N23 HPM_FLUX 
XX45  N12 Na HPM_FLUX_INV 
XX46  Nb N22 HPM_FLUX 
VIMp11 Nc Nd DC 0
VIMq10 Ne Nf DC 0
VIMp01 Na Nb DC 0

.control

tran 0.000100559 0.018 0 
let Vs12 = N12
let Vs22 = N22
let Vs32 = N32
let VMp01 = abs(N12-N22)
let VMp11 = abs(N22-N32)
let VMq10 = abs(N21-N22)
let Mp01 = (VMp01) / (abs(i(VIMp01))+ 1e-16)
let Mp11 = (VMp11) / (abs(i(VIMp11))+ 1e-16)
let Mq10 = (VMq10+1e-12) / (abs(i(VIMq10))+ 1e-12)
write spice4qucs.tr1.plot v(N11) v(N12) v(N13) v(N21) v(N22) v(N23) v(N31) v(N32) v(N33) v(Na) v(Nb) v(Nc) v(Nd) v(Ne) v(Nf) i(VIMp01) i(VIMp11) i(VIMq10) Vs12 Vs22 Vs32 VMp01 VMp11 VMq10 Mp01 Mp11 Mq10
destroy all
reset

exit
.endc
.END
